* source HOMEWORK5
V_VDS1         N16786 0 5Vdc
V_VGS1         N16812 0 2.5
X_M2         N16786 N16812 0 2N7000/FAI
X_M5         N16786 N17453 0 2N7000/FAI
V_VGS2         N17453 0 3
V_VGS3         N17718 0 3.5
X_M6         N16786 N17718 0 2N7000/FAI
V_VDS2         N18546 0 5Vdc
V_VGS4         N18594 0 5Vdc
X_M7         N18546 N18594 0 2N7000/FAI
M_M8         N18779 N18844 N18844 N18844 Mbreakn           
V_V1         N18779 0 5Vdc
V_V2         N18844 0 3Vdc
