* source 0257HW1
V_V1         N02367 0  
+SIN 0V 5V 100Hz 0 0 0
D_D1         N02398 N02367 Dbreak 
D_D2         N02398 0 Dbreak 
R_R1         N02519 N02398  1k TC=0,0 
I_I1         N02552 N02519 DC 1mAdc  
V_V2         N02552 0 15Vdc
