* source HOMEWORK4
X_TX1    N14584 0 RECT_IN N14653 SCHEMATIC1_TX1 
V_V1         AC_LINE 0  
+SIN 0 169.7056275 60 0 0 0
R_R1         AC_LINE N14584  1 TC=0,0 
R_R2         0 N14653  100M TC=0,0 
X_D1         RECT_IN FILTER_OUT awb1n4002 PARAMS:                
C_C1         0 FILTER_OUT  1.6667m  TC=0,0 
R_R7         FILTER_OUT LOAD_OUT  500 TC=0,0 
X_D4         0 LOAD_OUT awb1n4733 PARAMS:               
R_R8         0 LOAD_OUT  500 TC=0,0 

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 2H
L2_TX1         3 4 27.2mH
.ends SCHEMATIC1_TX1
