* source EXTRACREDIT
V_V1         N14315 0 3Vdc
R_R1         0 V_OUT  1k TC=0,0 
D_D4         N14315 V_OUT D1N4001 
D_D5         N15442 N15451 D1N4001 
R_RL         0 N15451  10k TC=0,0 
V_V3         N15442 0  
+SIN 0 5 1k 0 0 0
V_V4         N16016 0  
+SIN 0 5 1k 0 0 0
D_D6         N16016 N16075 D1N4003 
C_C1         0 N16075  47u  TC=0,0 
R_R3         0 N16075  100 TC=0,0 
R_R4         N17112 N17146  1k TC=0,0 
X_D9         N17146 N171740 awb1n4733 PARAMS:               
X_D10         0 N171740 awb1n4733 PARAMS:               
V_V6         N17112 0  
+SIN 0 7.5 100 0 0 0
D_D11         0 N17556 D1N4001 
R_R5         N17556 N17519  1k TC=0,0 
D_D12         N17556 0 D1N4001 
V_V7         N17519 0  
+SIN 0 2.5 100 0 0 0
